2117-08-26 09:12:00 Physician Attending Progress Note
Chief Complaint: Hypotension, GPC bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Seen by neurology last night - no need for MRI at present
   24 Hour Events:
 DIALYSIS CATHETER - START [**2117-8-25**] 04:31 PM
 NASAL SWAB - At [**2117-8-25**] 09:32 PM
 EKG - At [**2117-8-26**] 02:52 AM
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-8-26**] 04:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-8-26**] 01:00 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Musculoskeletal: back pain
   Pain: [**2-24**] Mild
   Flowsheet Data as of  [**2117-8-26**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 101 (101 - 113) bpm
   BP: 106/47(60) {89/44(56) - 143/67(83)} mmHg
   RR: 14 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.2 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                    178 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                    178 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   205 K/uL
   121 mg/dL
   15.7 mg/dL
   23 mEq/L
   6.0 mEq/L
   116 mg/dL
   94 mEq/L
   140 mEq/L
   37.1 %
   18.4 K/uL
        [image002.jpg]
                             [**2117-8-26**]  01:22 AM
   WBC
   18.4
   Hct
   37.1
   Plt
   205
   Cr
   15.7
   Glucose
   121
   Other labs: PT / PTT / INR:13.6/27.6/1.2, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   59 yo man with GPC bacteremia, sepsis.  Currently hemodynamically
   stable.
   1. GPC bacteremia: Continue vancomycin/zosyn.  WBC continues to rise.
   Will get TTE today.  Transplant surgery to pull tunneled line today
   2. Hypotension: Currently normotensive
   3. Renal Failure: To get temp line and HD after tunneled line pulled
   4. Seizures: Will give Keppra iv
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: Will need speech and swallow so can take pills, particularly
   anti-seizure meds. NPO.
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2117-8-25**] 04:31 PM
   20 Gauge - [**2117-8-25**] 04:32 PM
   18 Gauge - [**2117-8-25**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2117-08-27 09:28:00 Physician Attending Progress Note
Chief Complaint: Hypotension, GPC bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   250cc boluses x3 for SBPs in 70s-80s
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2117-8-26**] 02:00 PM
 DIALYSIS CATHETER - STOP [**2117-8-26**] 09:29 PM
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-8-26**] 04:02 AM
   Vancomycin - [**2117-8-27**] 12:47 AM
   Piperacillin - [**2117-8-27**] 04:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-8-26**] 08:30 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Musculoskeletal: back pain
   Pain: [**2-24**] Mild
   Flowsheet Data as of  [**2117-8-27**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 106 (95 - 110) bpm
   BP: 100/56(61) {80/38(48) - 121/59(70)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.7 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                    940 mL
                                                                    742 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    940 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: diffuse pain
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   252 K/uL
   97 mg/dL
   17.8 mg/dL
   20 mEq/L
   6.2 mEq/L
   137 mg/dL
   93 mEq/L
   144 mEq/L
   33.7 %
   21.3 K/uL
        [image002.jpg]
                             [**2117-8-26**]  01:22 AM
                             [**2117-8-26**]  03:11 PM
                             [**2117-8-27**]  05:35 AM
   WBC
   18.4
   17.8
   21.3
   Hct
   37.1
   33.9
   33.7
   Plt
   [**Telephone/Fax (3) 10154**]
   Cr
   15.7
   17.8
   Glucose
   121
   97
   Other labs: PT / PTT / INR:14.3/30.3/1.2, ALT / AST:24/56, Alk Phos / T
   Bili:83/1.5, LDH:456 IU/L, Ca++:7.2 mg/dL, Mg++:2.6 mg/dL, PO4:10.1
   mg/dL
   Microbiology: Blood cultures: Staph aureus - [**Last Name (un) **] pending
   Assessment and Plan
   59 yo man with GPC bacteremia, sepsis.
   1. GPC bacteremia: Continue vancomycin.  Will D/C Zosyn.  Elevated
   WBC.  Tunneled HD line pulled.  TTE unchanged from prior - no
   vegetations.  Will get dedicated chest CT as well.  Serial blood
   cultures.
   2. Hypotension: Fluid boluses prn
   3. Renal Failure: Temp HD line by IR today
   4. Seizures: Keppra iv
   5.  C-spine clearence.  Will ask trauma team what needs to clear
   c-spine given complaints of diffuse pain.  Has had CT spine with
   spinous abnormality
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition: Will place NG tube if still has poor control of swallow
   post-HD
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-8-25**] 04:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Staff Addendum
   16:50
   Remains altered.  Not tolerating fluid removal with HD due to
   hypotension (improved with fluid boluses).  On exam, he awakens to
   voice but does not follow commands.  Clinically, protecting airway
   well.  Will observe for now and repeat ABG in an hour or two.  Very
   threshold for intubation, but at the present time I feel that the risks
   outweigh the benefits.
   20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2117-8-27**] 16:59 ------

2117-09-03 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, MSSA bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Restarted levophed tihs AM
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-9-1**] 09:00 PM
   Metronidazole - [**2117-9-2**] 08:14 AM
   Nafcillin - [**2117-9-3**] 06:15 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-9-2**] 01:02 PM
   Pantoprazole (Protonix) - [**2117-9-2**] 08:08 PM
   Midazolam (Versed) - [**2117-9-3**] 12:26 AM
   Fentanyl - [**2117-9-3**] 08:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-9-3**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 100 (91 - 107) bpm
   BP: 86/43(55) {70/42(51) - 145/105(109)} mmHg
   RR: 25 (19 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.6 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                  7,020 mL
                                                                  3,890 mL
   PO:
             TF:
                                                                     39 mL
                                                                    141 mL
   IVF:
                                                                  6,781 mL
                                                                  3,399 mL
   Blood products:
   Total out:
                                                                  9,277 mL
                                                                  4,460 mL
   Urine:
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,257 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (368 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.39/37/104/21/-1
   Ve: 14.8 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   569 K/uL
   150 mg/dL
   4.2 mg/dL
   21 mEq/L
   4.8 mEq/L
   28 mg/dL
   101 mEq/L
   135 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                             [**2117-9-2**]  04:56 AM
                             [**2117-9-2**]  06:37 AM
                             [**2117-9-2**]  10:29 AM
                             [**2117-9-2**]  10:43 AM
                             [**2117-9-2**]  04:49 PM
                             [**2117-9-2**]  05:04 PM
                             [**2117-9-2**]  10:34 PM
                             [**2117-9-2**]  10:51 PM
                             [**2117-9-3**]  04:38 AM
                             [**2117-9-3**]  04:59 AM
   WBC
   13.6
   Hct
   24.2
   Plt
   569
   Cr
   4.7
   4.5
   4.3
   4.2
   TCO2
   24
   23
   22
   23
   23
   23
   Glucose
   156
   119
   137
   150
   Other labs: PT / PTT / INR:17.0/34.5/1.5, ALT / AST:24/56, Alk Phos / T
   Bili:83/1.5, Lactic Acid:0.8 mmol/L, LDH:456 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 y.o. Male with HD dependent ESRD, CAD s/p MI, non-ischemic CMY (EF
   35-40%) p/w 3 day h.o. malaise, found down and initially hyperkalemic
   with back pain. Pt transferred from the floor with GPC sepsis
   #. Sepsis/MSSA bacteremia: Cont nafcillin.  Still afebrile.
   Hypotension appears to be sedation related at moment - can actually be
   weaned off [**Last Name (un) 5165**].  Levoflox/flagyl d/c's.  Still unable to clinically
   clear c-spine
   # Respiratory failure: BAL with MSSA.  Continuing nafcillin.  Will aim
   for SBT plus extubation today.
   #. ESRD: Cont CVVH
   #?Ileus: Now appears to bilious material - restart tube feeds slowly
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2117-8-27**] 01:30 PM
   Arterial Line - [**2117-8-28**] 06:45 PM
   Midline - [**2117-9-1**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2117-09-04 09:48:00 Physician Attending Progress Note
Chief Complaint: MSSA bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   No complaints of pain today
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-9-3**] 12:19 PM
   NG tube placment last PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-9-1**] 09:00 PM
   Metronidazole - [**2117-9-2**] 08:14 AM
   Nafcillin - [**2117-9-4**] 06:27 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2117-9-4**] 04:15 AM
   Heparin Sodium (Prophylaxis) - [**2117-9-4**] 08:22 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-9-4**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 108 (99 - 110) bpm
   BP: 95/61(73) {78/43(55) - 143/69(92)} mmHg
   RR: 29 (19 - 37) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.6 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                  8,362 mL
                                                                  3,708 mL
   PO:
             TF:
                                                                    141 mL
                                                                    233 mL
   IVF:
                                                                  7,651 mL
                                                                  3,155 mL
   Blood products:
   Total out:
                                                                 10,370 mL
                                                                  2,253 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,008 mL
                                                                  1,455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 90%
   ABG: 7.45/35/72/22/0
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on right, clear on left)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   7.4 g/dL
   721 K/uL
   144 mg/dL
   3.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   25.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2117-9-3**]  04:38 AM
                             [**2117-9-3**]  04:59 AM
                             [**2117-9-3**]  11:50 AM
                             [**2117-9-3**]  11:52 AM
                             [**2117-9-3**]  02:14 PM
                             [**2117-9-3**]  05:05 PM
                             [**2117-9-3**]  05:07 PM
                             [**2117-9-3**]  10:21 PM
                             [**2117-9-4**]  04:29 AM
                             [**2117-9-4**]  04:41 AM
   WBC
   13.6
   14.5
   10.8
   Hct
   24.2
   25.8
   25.6
   Plt
   569
   672
   721
   Cr
   4.2
   3.7
   3.5
   TCO2
   23
   24
   23
   23
   23
   25
   Glucose
   150
   138
   147
   134
   146
   144
   Other labs: PT / PTT / INR:16.4/33.9/1.5, ALT / AST:24/56, Alk Phos / T
   Bili:83/1.5, Lactic Acid:0.8 mmol/L, LDH:456 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Microbiology: BAL: MSSA, [**8-30**], [**8-31**]
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 y.o. Male with HD dependent ESRD, CAD s/p MI, non-ischemic CMY (EF
   35-40%) p/w 3 day h.o. malaise, found down and initially hyperkalemic
   with back pain. Pt transferred from the floor with MSSA sepsis
   #. Sepsis/MSSA bacteremia: Cont nafcillin.  BPs improved when chacking
   cuff pressures - art line samped.
   # Respiratory failure: Now extubated
   #. ESRD: CVVH curcuit down - will discuss with renal need for further
   CVVH. Plan for new tunneled line on Monday
   # C-collar: try to do clinical exam to clear c-spine
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-9-4**] 12:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2117-8-27**] 01:30 PM
   Arterial Line - [**2117-8-28**] 06:45 PM
   Midline - [**2117-9-1**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2117-09-05 09:26:00 Physician Attending Progress Note
Chief Complaint: MSSA bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Got HD --> 2L off
   Hypotensive to SBP of 80s this AM --> improved with fluid bolus
   C-spine cleared by clinical exam --> hard collar removed
   24 Hour Events:
 ARTERIAL LINE - STOP [**2117-9-4**] 05:11 PM
 BLOOD CULTURED - At [**2117-9-5**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2117-9-5**] 02:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2117-9-4**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2117-9-5**] 08:17 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-9-5**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (96 - 117) bpm
   BP: 95/39(51) {84/37(48) - 133/55(65)} mmHg
   RR: 5 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                  5,602 mL
                                                                  1,654 mL
   PO:
             TF:
                                                                    932 mL
                                                                    459 mL
   IVF:
                                                                  3,780 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  4,825 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    777 mL
                                                                  1,654 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, moves arms to command but not otherwise
   attentive enough to comply with commands
   Labs / Radiology
   6.4 g/dL
   704 K/uL
   154 mg/dL
   4.2 mg/dL
   28 mEq/L
   3.9 mEq/L
   24 mg/dL
   101 mEq/L
   139 mEq/L
   20.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2117-9-3**]  11:50 AM
                             [**2117-9-3**]  11:52 AM
                             [**2117-9-3**]  02:14 PM
                             [**2117-9-3**]  05:05 PM
                             [**2117-9-3**]  05:07 PM
                             [**2117-9-3**]  10:21 PM
                             [**2117-9-4**]  04:29 AM
                             [**2117-9-4**]  04:41 AM
                             [**2117-9-5**]  03:43 AM
                             [**2117-9-5**]  08:30 AM
   WBC
   14.5
   10.8
   9.6
   Hct
   25.8
   25.6
   21.8
   20.6
   Plt
   672
   721
   704
   Cr
   3.7
   3.5
   4.2
   TCO2
   24
   23
   23
   23
   25
   Glucose
   138
   147
   134
   146
   144
   154
   Other labs: PT / PTT / INR:15.5/32.5/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:83/1.5, Lactic Acid:0.8 mmol/L, LDH:456 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 y.o. Male with HD dependent ESRD, CAD s/p MI, non-ischemic CMY (EF
   35-40%) p/w 3 day h.o. malaise, found down and initially hyperkalemic
   with back pain. Pt transferred from the floor with MSSA sepsis
   #. Sepsis/MSSA bacteremia: Cont nafcillin.  BPs worsened today, may be
   partially a fluid issue, but concerning that he still has fevers and
   could have a septic component.  WBC down and no new positive blood
   cultures.  Still not stable enough for TEE but will repeat TTE.  Will
   pull IR temp groin line
   # Hypotension: Getting fluid boluses.  Also getting 1 unit pRBCs for
   anemia
   # Delerium: Unclear if this due to ongoing
   fevers/infections/hypotension/narcotics.
   # Respiratory failure: Now extubated
   #. ESRD: Got HD yesterda
   # C-collar: now off after cleared clinical exam
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-9-5**] 01:20 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2117-8-27**] 01:30 PM
   Midline - [**2117-9-1**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2117-09-11 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Fever to 101.1 at 4 pm
   -ID recs say OK to switch from naficillin to cefazolin 2g IV s/p
   dialysis on HD days (2 day intervals) and 3g IV (3 day intervals)
   -ID final recs: follow up in [**Hospital **] clinic in 2 weeks [**Numeric Identifier 10300**]) at
   urgent care ID with any fellow or attending.  He should  also follow up
   with [**First Name8 (NamePattern2) 4719**] [**Last Name (NamePattern1) 10301**] on [**10-8**] at 10 am and should have a repeat chest CT
   non-contrast early in [**Month (only) **] prior to his appointment on the 16th.  He
   should also have weekly labs including CBC with diff, BUN, Cr faced to
   [**Numeric Identifier 10302**] attention [**First Name8 (NamePattern2) 4719**] [**Last Name (NamePattern1) 10301**]
   -Renal final recs: carefully monitor for hypotension, HD on MWF.
   Patient will be followed by Dr. [**First Name (STitle) 460**] by [**Hospital 12**] Rehab
   -Dobhoff placed, not working well, Keppra given IV
   - PT consulted and worked with patient yesterday
 deconditioned and
   below baseline but excellent rehab potential and warrants continued PT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2117-9-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-9-10**] 05:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-9-11**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 96 (96 - 111) bpm
   BP: 94/40(51) {90/38(51) - 119/57(70)} mmHg
   RR: 17 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 97.2 kg
   Height: 79 Inch
             Total In:
                                                                  1,718 mL
                                                                     28 mL
   PO:
             TF:
                                                                  1,048 mL
   IVF:
                                                                    320 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -282 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General: NAD, A & O x 3
   Lungs: coarse breath sounds bilateral, congested cough
   Heart: regular,  tachycardic, no MRG
   Abdomen: soft, NTND
   Extremities: no CCE, WWP
   Labs / Radiology
   586 K/uL
   6.6 g/dL
   98 mg/dL
   6.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   35 mg/dL
   98 mEq/L
   141 mEq/L
   21.3 %
   8.0 K/uL
                             [**2117-9-5**]  03:43 AM
                             [**2117-9-5**]  08:30 AM
                             [**2117-9-5**]  05:45 PM
                             [**2117-9-6**]  04:09 AM
                             [**2117-9-6**]  09:46 PM
                             [**2117-9-7**]  05:02 AM
                             [**2117-9-8**]  04:10 AM
                             [**2117-9-9**]  03:36 AM
                             [**2117-9-10**]  04:00 AM
                             [**2117-9-11**]  03:22 AM
   WBC
   9.6
   12.0
   9.9
   9.2
   6.3
   7.5
   8.0
   Hct
   21.8
   20.6
   23.8
   22.5
   21.3
   21.6
   21.8
   22.3
   21.3
   Plt
   [**Telephone/Fax (3) 10284**]
   586
   Cr
   4.2
   6.2
   7.8
   8.4
   10.3
   5.9
   7.7
   6.6
   Glucose
   154
   183
   149
   132
   96
   153
   149
   98
   Other labs: PT / PTT / INR:14.4/30.6/1.2, CK / CKMB /
   Troponin-T:444/4/, ALT / AST:24/56, Alk Phos / T Bili:83/1.0, Amylase /
   Lipase:124/112, Differential-Neuts:83.7 %, Lymph:10.3 %, Mono:4.3 %,
   Eos:1.5 %, Lactic Acid:1.4 mmol/L, LDH:207 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Imaging:
   - Chest XR [**2117-9-11**]
   Microbiology:
   - Sputum
 contamination
   - C. Diff
 negative
   Assessment and Plan
   Assessment and Plan: This is  59 yom with HD dependent ESRD, CAD s/p
   MI, non-ischemic CMY EF 35-40% admitted w/ 3 day h/o. malaise, found
   down and initially hyperkalemic with back pain. Pt transferred from the
   floor for MSSA sepsis.
   #. Sepsis/Hypotension: initial presentation of hypotension,
   hypoglycemia, leukocytosis, + blood Cx for MSSA, and pulmonary abscess
   on chest CT with suspected source as tunneled HD catheter line.
   Patient continues to remain normotensive, off pressors.  Fever spike
   yesterday afternoon to 101.1. with low grade temps all day.  No
   surveillance cultures sent.
   - intermittent fevers expected with persistent pulmonary abscesses
   chest from [**9-9**] demonstrate mildly improving infection
   - on naficillin day 16/42 for MSSA bacteremia w/ pulmonary abscesses
   will transition to cefazolin for easier dosing schedule at
     rehab facility per ID
   - continue to f/u cultures
 last + blood ([**8-25**]) sputum ([**8-31**]) both MSSA
   - continue surveillance cultures until afebrile
   # Barriers to rehab:
   - continue low grade fevers without large temperature spikes
 will
   require careful following
   - persistent difficulties with NGT including recently placed dobhoff
   raises the question of PEG
   - will require permanent tunneled catheter once antibiotic course
   completed for MSSA and patient remains afebrile
   #AMS: daily improving mental status, likely ICU delirium in setting of
   sepsis, will promote re-orientation cues.  Repeat head CT shows nothing
   acute.
   -limit narcotics for pain by using neurontin
   #Anemia
 Hct 21.3,   transfused 1 unit of PRBC
s on [**2117-9-10**] during HD
   with no appropriate bump
   -consider transfusing 2 units of PRBC
s at next HD
   -continue to trend
   -active T & S
   -Epo with HD for anemia of chronic disease
   .
   ##. Diffuse pain/weakness:  In the [**Name (NI) **] pt was placed on a C-spine given
   his pain and underwent a C/T/L Spine CT with contrast which showed no
   gross abscess but did show the aforementioned lung abscesses.  Pt still
   c/o diffuse pain and is very weak
   - continue fentanyl patch and morphine PRN for pain control
   -gabapentin p HD per neuro recs
   -EMG inconclusive; still need NCS- can consider when edema has gone
   down somewhat
   -continue with daily PT
   .
   ##. ESRD: Pt currently HD dependent, was on CVVH, now on HD
   - start renagel for easier NGT administration and epo per renal recs
   for ESRD on HD
   ##. Non-Ichemic CMY: Pt's prior Echo in [**2114**] shows EF of 35-40% as well
   as left ventricular severe hypokinesis/near akinesis of the basal to
   mid septal, anterior and inferior segments.
   - continue on Digoxin, f/u daily dig levels
   .
   ##. Seizure d.o.: Pt with seizure several nights ago, in setting of HD
   and on oxcarbezepine ([**1-25**] no ngt at that time). Will continue on home
   regimen of Levetiracetam, Oxcarbazepine now that patient has NGT.
   -continue meds PO (oxcarbezepine TID + xtra dose p HD, keppra [**Hospital1 **] +xtra
   dose p HD)
   #  Renal mass:
   -will need f/u as outpt
   .
   #. FEN: tube feeds on. IVF boluses limited given fluid overload. Will
   continue to follow electrolytes and replete as necessary.
   - Consider replacing Dophoff with larger NGT for easier medication
   administration.
   - Consider PEG tube as alternative for longer term treatment if mental
   status and condition doesn
t improve at rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-9-1**] 02:06 PM
   Dialysis Catheter - [**2117-9-8**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: